US06784192B2
N1-(3-Fluorobenzyl)-2-[1-[2-(2-methoxy-3-pyridyl)ethyl]-2-piperidyl]acetamide
200 mg of 2-(2-methoxy-3-pyridyl)acetaldehyde, 400 mg of N1-(3-fluorobenzyl)-2-(2-piperidyl)acetamide, 440 mg of sodium triacetoxyborohydride and 0.12 ml of acetic acid were suspended in THF, followed by stirring at room temperature for 1 hour. An aqueous sodium bicarbonate was added thereto, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate. After filtering off the drying agent, the solvent was evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=8:1, subsequently 4:1), to give 370 mg of a yellow oil.

reactant | 2-(2-methoxy-3-pyridyl)acetaldehyde | 200 mg | COC1=NC=CC=C1CC=O | C8H9NO2
reactant | N1-(3-fluorobenzyl)-2-(2-piperidyl)acetamide | 400 mg | FC=1C=C(CNC(CC2NCCCC2)=O)C=CC1 | C14H19FN2O
reactant | sodium triacetoxyborohydride | 440 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | acetic acid | 0.12 ml | C(C)(=O)O | C2H4O2
product | N1-(3-Fluorobenzyl)-2-[1-[2-(2-methoxy-3-pyridyl)ethyl]-2-piperidyl]acetamide | 370 mg | FC=1C=C(CNC(CC2N(CCCC2)CCC=2C(=NC=CC2)OC)=O)C=CC1 | C22H28FN3O2
